US07812040B2
4-({trans-3-[2,6-dimethyl-4-(pyrrolidin-1-ylmethyl)phenoxy]cyclobutyl}methyl)-morpholine Dihydrochloride.
A solution of intermediate 54, 2,6-Dimethyl-4-(pyrrolidin-1-ylmethyl)phenol (1.31 g, 3.2 mmol) and potassium tert-butoxide (0.36 g, 3.2 mmol) in DMSO (15 mL) was heated to 90° C. under vigorous stirring in a flow of argon. The mixture was stirred at this temperature for 15 min. A solution of intermediate 41, cis-3-(Morpholin-4-ylmethyl)cyclobutyl methanesulfonate (0.4 g, 1.6 mmol) in DMSO (10 mL) and tetrabutylammonium bromide (1 g, 0.1 mmol) were added. The mixture was stirred at 90-100° C. for 2 h, cooled, and diluted with CHCl3 (100 mL). The solution was washed with water (100 mL), 1N NaOH (3×25 mL), brine, dried with Na2SO4, and evaporated. The residue was purified by chromatography (silica gel 63-100μ, 8 mL, CHCl3/MeOH 100:0→70:30). The obtained product was dissolved in ether, and 4M HCl/dioxane (0.75 mL) was added. The precipitate was separated by filtration, washed with ether, and dried in vacuo to give the title compound (75 mg, 23%) as white crystals. LCMS-data: 359.2 and 360.2 (M+H)+, 474.2 and 473.2 (M+H+FTA)+, (calculated for C22H34N2O2 358.3). 1H NMR data (DMSO-d6): 10.70-11.21 (m, 2H, N+H2); 7.28 (s, 2H, Ar—H); 4.36-4.51 (m, 1H); 4.09-4.29 (m, 2H); 3.76-4.02 (m, 4H); 3.14-3.46 (m, masked); 2.92-3.10 (m, 4H); 2.68-2.84 (m, 1H); 2.31-2.45 (m, masked); 1.76-2.08 (m, 4H).

reactant | 2,6-Dimethyl-4-(pyrrolidin-1-ylmethyl)phenol | 3.2 mmol, 1.31 g | CC1=C(C(=CC(=C1)CN1CCCC1)C)O | C13H19NO
reactant | potassium tert-butoxide | 3.2 mmol, 0.36 g | CC(C)([O-])C.[K+]
reactant | cis-3-(Morpholin-4-ylmethyl)cyclobutyl methanesulfonate | 1.6 mmol, 0.4 g | CS(=O)(=O)O[C@@H]1C[C@@H](C1)CN1CCOCC1 | C10H19NO4S
reactant | CHCl3 | 100 mL | C(Cl)(Cl)Cl | CHCl3
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
catalyst | tetrabutylammonium bromide | 0.1 mmol, 1 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 4-({trans-3-[2,6-dimethyl-4-(pyrrolidin-1-ylmethyl)phenoxy]cyclobutyl}methyl)-morpholine Dihydrochloride | 75 mg, 23% | Cl.Cl.CC1=C(O[C@@H]2C[C@H](C2)CN2CCOCC2)C(=CC(=C1)CN1CCCC1)C | InChI=1S/C22H34N2O2.2ClH/c1-17-11-19(15-23-5-3-4-6-23)12-18(2)22(17)26-21-13-20(14-21)16-24-7-9-25-10-8-24;;/h11-12,20-21H,3-10,13-16H2,1-2H3;2*1H/t20-,21-;;
